US09238639B2
A) Ethyl(6-vinyl-1-benzothiophen-3-yl)acetate
To a mixture of ethyl(6-(((trifluoromethyl)sulfonyl)oxy)-1-benzothiophen-3-yl)acetate (600 mg) and EtOH (10 mL) were added potassium vinyl(trifluoro) borate (240 mg), PdCl2(dppf) (119 mg) and TEA (0.454 mL) at room temperature, and the mixture was heated to 110° C. with microwave irradiation for 15 min. The mixture was poured into brine at room temperature and extracted with EtOAc. The organic layer was separated, washed with brine, and dried over MgSO4 and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (320 mg).

reactant | ethyl(6-(((trifluoromethyl)sulfonyl)oxy)-1-benzothiophen-3-yl)acetate | 600 mg | C(C)OC(CC1=CSC2=C1C=CC(=C2)OS(=O)(=O)C(F)(F)F)=O | C13H11F3O5S2
reactant | EtOH | 10 mL | CCO | C2H6O
solvent | brine | [Cl-].[Na+].O
catalyst | PdCl2(dppf) | 119 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | Ethyl(6-vinyl-1-benzothiophen-3-yl)acetate | 320 mg | C(C)OC(CC1=CSC2=C1C=CC(=C2)C=C)=O | C14H14O2S
